US06403595B1
A solution of 4-[3-(bromomethyl)benzenesulfonyl]-1-(4-cyanobenzyl)-2-piperazinone (1.21 g) obtained from 1-(4-cyanobenzyl)-2-piperazinone hydrochloride and 3-(bromomethyl)benzenesulfonyl chloride according to a method described in Reference Example 6 and imidazole (613 mg) in DMF (20 ml) was stirred at room temperature overnight. The reaction solution was concentrated under reduced pressure, and to the residue was added ethyl acetate. The mixture was washed with sodium bicarbonate solution and saturated brine, dried (MgSO4) and concentrated, and the residue was purified with silica gel column chromatography (ethyl acetate:methanol containing 10% ammonia solution=85:15) to give pale yellow amorphous of 1-(4-cyanobenzyl)-4-[3-(1H-imidazol-1-ylmethyl)benzenesulfonyl]-2-piperazinone (734 mg).

reactant | 1-(4-cyanobenzyl)-2-piperazinone hydrochloride | Cl.C(#N)C1=CC=C(CN2C(CNCC2)=O)C=C1
reactant | 3-(bromomethyl)benzenesulfonyl chloride | BrCC=1C=C(C=CC1)S(=O)(=O)Cl | C7H6BrClO2S
product | 4-[3-(bromomethyl)benzenesulfonyl]-1-(4-cyanobenzyl)-2-piperazinone | 1.21 g | BrCC=1C=C(C=CC1)S(=O)(=O)N1CC(N(CC1)CC1=CC=C(C=C1)C#N)=O | C19H18BrN3O3S
